US07157487B2
In DMF (10 ml), EDC HCl (1.43 g, 7.45 mmol) was added to indole-2-carboxylic acid (1.00 g, 6.21 mmol), tert-butyl 4-amino-3-methoxyphenylacetate (1.47 g, 6.21 mmol), HOBt (0.42 g, 3.10 mmol), and DMAP (0.38 g, 3.10 mmol). The resulting mixture was stirred at 60° C. for 16 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane:ethyl acetate (1:1, v/v) eluate fractions, tert-butyl (4-((2-indolylcarbonyl)amino)-3-methoxyphenyl)acetate (1.31 g, 55%) was obtained as a brown solid.

reactant | EDC HCl | 7.45 mmol, 1.43 g | CCN=C=NCCCN(C)C.Cl
reactant | indole-2-carboxylic acid | 6.21 mmol, 1.00 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | tert-butyl 4-amino-3-methoxyphenylacetate | 6.21 mmol, 1.47 g | NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)OC | C13H19NO3
reactant | HOBt | 3.10 mmol, 0.42 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 3.10 mmol, 0.38 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Water | O | H2O
product | tert-butyl (4-((2-indolylcarbonyl)amino)-3-methoxyphenyl)acetate | 1.31 g, 55% | N1C(=CC2=CC=CC=C12)C(=O)NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)OC | C22H24N2O4
